US07074817B2
Ethyl 2-[5-(4-acetylphenyl)-1-benzyl-1H-indol-3-yl]-2-oxoacetate was prepared from 1-[4-(1-benzyl-1H-indol-5-yl)phenyl]-1-ethanone (0.255 g, 0.784 mmol), oxalyl chloride (0.14 mL, 1.6 mmol), and ethanol (2 mL), following the procedure described in Step 3 of Example 1. Purification by flash chromatography using 30-50% chloroform in hexane as an eluant and drying at 55° C. yielded a brownish solid (0.243 g, 73%). 1HNMR (300 MHz, DMSO-d6): δ 8.75 (s, 1H), 8.5 (s, 1H), 8.05 (d, 2H, J=9.2 Hz), 7.8 (d, 2H, J=7.7 Hz), 7.7 (q, 2H, J=8.5 Hz), 7.25-7.4 (m, 5H), 5.65 (s, 2H), 4.35 (q, 2H, J=7.2 Hz), 2.6 (s, 3H), and 1.35 ppm (t, 3H, J=7.3 Hz).

reactant | 1-[4-(1-benzyl-1H-indol-5-yl)phenyl]-1-ethanone | 0.784 mmol, 0.255 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C1=CC=C(C=C1)C(C)=O | C23H19NO
reactant | oxalyl chloride | 1.6 mmol, 0.14 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | Ethyl 2-[5-(4-acetylphenyl)-1-benzyl-1H-indol-3-yl]-2-oxoacetate | C(C)(=O)C1=CC=C(C=C1)C=1C=C2C(=CN(C2=CC1)CC1=CC=CC=C1)C(C(=O)OCC)=O | C27H23NO4
